US07173028B2
2-chloro-4-(2-acetylamino-ethylamino)-5-trifluoromethyl-pyrimidine
1.84 g of 2-acetylamino-ethylamine dissolved in 10 ml of dioxane are added to 3.91 g of 2,4-dichloro-5-trifluoromethyl-pyrimidine in 20 ml dioxane at ambient temperature. Then 3.7 ml of 5 M potassium carbonate solution are added and the mixture is stirred for three days at ambient temperature. It is then filtered through Alox B and washed with dioxane. The filtrate is concentrated by evaporation and the residue separated by chromatography through a silica gel column with cyclohexane:ethyl acetate: methanol (5:4:1).

reactant | 2-acetylamino-ethylamine | 1.84 g | C(C)(=O)NCCN | C4H10N2O
reactant | 2,4-dichloro-5-trifluoromethyl-pyrimidine | 3.91 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | potassium carbonate | 5 M, 3.7 ml | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-chloro-4-(2-acetylamino-ethylamino)-5-trifluoromethyl-pyrimidine | ClC1=NC=C(C(=N1)NCCNC(C)=O)C(F)(F)F | C9H10ClF3N4O
